US09388190B2
To a solution of (R)-3-isopropyl-4-(4-(trifluoromethyl)pyrimidin-2-yl)piperazin-2-one (986 mg, 3.42 mmol) in DMF (5 mL) was added a 2 M solution of KOtBu in THF (2.14 mL, 4.28 mmol) dropwise at 0° C. The reaction stirred for 1 h at 0° C. and was then cooled to −78° C. In a separate flask, a solution of methyl 2,4-difluoro-5-nitrobenzoate (928 mg, 4.28 mmol) in DMF (15 mL) was cooled to −78° C. To this solution was added a solution of the above anion via cannula at −78° C. over a 5 min period. The reaction was allowed to warm to −50° C. and stirred at this temperature for 2 h. Sat. aq. NH4Cl (20 mL) was added to quench the reaction, followed by EtOAc (30 mL). The EtOAc layer was separated and the aqueous layer was extracted with EtOAc (3×15 mL). The EtOAc layers were combined, dried and evaporated to give crude (R)-methyl-2-fluoro-4-(3-isopropyl-2-oxo-4-(4-(trifluoromethyl)pyrimidin-2-yl)piperazin-1-yl)-5-nitrobenzoate which was taken on directly for the next step without further purification.

reactant | (R)-3-isopropyl-4-(4-(trifluoromethyl)pyrimidin-2-yl)piperazin-2-one | 3.42 mmol, 986 mg | C(C)(C)[C@@H]1C(NCCN1C1=NC=CC(=N1)C(F)(F)F)=O | C12H15F3N4O
reactant | KOtBu | CC(C)(C)[O-].[K+]
reactant | THF | 4.28 mmol, 2.14 mL | C1CCOC1 | C4H8O
reactant | methyl 2,4-difluoro-5-nitrobenzoate | 4.28 mmol, 928 mg | FC1=C(C(=O)OC)C=C(C(=C1)F)[N+](=O)[O-] | C8H5F2NO4
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (R)-methyl-2-fluoro-4-(3-isopropyl-2-oxo-4-(4-(trifluoromethyl)pyrimidin-2-yl)piperazin-1-yl)-5-nitrobenzoate | COC(C1=C(C=C(C(=C1)[N+](=O)[O-])N1C([C@H](N(CC1)C1=NC=CC(=N1)C(F)(F)F)C(C)C)=O)F)=O | C20H19F4N5O5
